US04668278
To a mixture of 2-(4-chloro-2-fluoro-5-hydroxyphenyl)-4,5,6,7-tetrahydro-1,2,3-benzotriazol-1-oxide (1 g), potassium carbonate (0.3 g) and dimethylformamide (5 ml), propargyl bromide (0.6 g) was added, and the resultant mixture was stirred at 70° to 80° C. for 4 hours. After cooling, water was added to the mixture, which was then extracted with ethyl acetate. The organic layer was washed with water, dried and concentrated. The residue was purified by silica gel thin layer chromatography using a mixture of n-hexane and ethyl acetate as a developing solvent to give 0.15 g of 2-(4-chloro-2-fluoro-5-propargyloxyphenyl)-4,5,6,7-tetrahydro-1,2,3-benzotriazol-1-oxide (Compound No. 12). M.P., 155°-156° C.

reactant | 2-(4-chloro-2-fluoro-5-hydroxyphenyl)-4,5,6,7-tetrahydro-1,2,3-benzotriazol-1-oxide | 1 g | ClC1=CC(=C(C=C1O)N1N=C2C(=[N+]1[O-])CCCC2)F | C12H11ClFN3O2
reactant | potassium carbonate | 0.3 g | C([O-])([O-])=O.[K+].[K+]
reactant | dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
reactant | propargyl bromide | 0.6 g | C(C#C)Br | C3H3Br
solvent | water | O | H2O
product | 2-(4-chloro-2-fluoro-5-propargyloxyphenyl)-4,5,6,7-tetrahydro-1,2,3-benzotriazol-1-oxide | 0.15 g | ClC1=CC(=C(C=C1OCC#C)N1N=C2C(=[N+]1[O-])CCCC2)F | C15H13ClFN3O2
